US07977352B2
Crude cis-1,2,6-trimethyl-4-(4-nitrophenyl)piperazine (5.55 g, 106% recovery) is prepared according to the method described above for the synthesis of racemic-1-(2-fluoro-4-nitrophenyl)-trans-2,4,5-trimethylpiperazine from cis-3,5-Dimethyl-1-(4-nitrophenyl)piperazine (4.91 g, 20.8 mmol). LCMS-ESI (m/z): calcd for C13H19N3O2, 249; [M+H]+ found, 250.

reactant | racemic-1-(2-fluoro-4-nitrophenyl)-trans-2,4,5-trimethylpiperazine | FC1=C(C=CC(=C1)[N+](=O)[O-])N1[C@H](CN([C@@H](C1)C)C)C | C13H18FN3O2
reactant | cis-3,5-Dimethyl-1-(4-nitrophenyl)piperazine | 20.8 mmol, 4.91 g | C[C@@H]1CN(C[C@@H](N1)C)C1=CC=C(C=C1)[N+](=O)[O-] | C12H17N3O2
product | cis-1,2,6-trimethyl-4-(4-nitrophenyl)piperazine | 5.55 g, 106% | CN1[C@H](CN(C[C@H]1C)C1=CC=C(C=C1)[N+](=O)[O-])C | C13H19N3O2
